US04404224
Preparation of 2'-Hydroxy-5'-[phenoxy-2-(isopropylamino)ethyl]methanesulfonanilide
A 3.25 g sample of 2'-hydroxy-5'-[1-chloro-2-(isopropylamino)ethyl]methanesulfonanilide hydrochloride is slowly added to 45 g of sodium phenoxide in 150 ml of dry tetrahydrofuran at 0° to 5° C. under N2 atmosphere. The mixture is stirred for 24 hours at ambient temperature and then poured on ice whereafter the crude product compound is separated.

reactant | 2'-hydroxy-5'-[1-chloro-2-(isopropylamino)ethyl]methanesulfonanilide hydrochloride | Cl.OC1=C(NS(=O)(=O)C)C=C(C=C1)C(CNC(C)C)Cl
reactant | sodium phenoxide | 45 g | [O-]C1=CC=CC=C1.[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2'-Hydroxy-5'-[phenoxy-2-(isopropylamino)ethyl]methanesulfonanilide | OC1=C(NS(=O)(=O)C)C=C(C=C1)CC(NC(C)C)OC1=CC=CC=C1 | C18H24N2O4S
